* C:\users\tobias\Desktop\GitLab\tcii\Tareas-Semanales\TrabajoSemanal13\Draft1.asc
RL 0 N003 {1/2}
I1 0 N001 AC 1
C2 N003 N002 {3/4}
R2 N003 N002 {1/3}
C3 N002 N001 {3/5}
R3 N002 N001 {5/3}
R4 N001 0 {1/2}
.ac dec 1024 1m 100
.backanno
.end
