* C:\users\tobias\Desktop\GitLab\tcii\Tareas-Semanales\TrabajoSemanal13\Draft2.asc
I1 0 N001 AC 1
C1 N001 0 {27/17}
L1 N001 N002 {289/243}
C2 N002 N001 {27/289}
C3 N002 0 {7/17}
R1 N002 0 {1}
.ac dec 1024 1m 10
.backanno
.end
