* C:\users\tobias\Desktop\GitLab\tcii\Tareas-Semanales\TrabajoSemanal5\fhp.asc
XU1 N003 N005 N004 opamp Aol=100K GBW=10Meg
XU2 N003 N001 N002 opamp Aol=100K GBW=10Meg
R1 N001 0 1k
R2 N004 N001 888.88
R3 Vi N005 1.125k
R4 N004 N003 1k
R5 N003 N002 1k
C1 N001 Vi 1591.54n
C2 N002 N005 1591.54n
C3 Vo N002 1591.54n
R6 Vo 0 1k
V1 Vi 0 AC 1
.lib opamp.sub
.ac dec 1024 1 1k
.backanno
.end
